US05302593
b) Preparation of 2-(N-methylpiperazinyl)ethylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 2-(N-methylpiperazinyl)ethylphthalimide (218 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 2-(N-methylpiperazinyl)ethylphthalimide | 0.8 mmoles, 218 mg | CN1C(CNCC1)CCC1=C2C(C(=O)NC2=O)=CC=C1 | C15H19N3O2
solvent | methanol | 5 ml | CO | CH4O
product | 2-(N-methylpiperazinyl)ethylamine | CN1C(CNCC1)CCN | C7H17N3
